US08314091B2
C: (R)-3-((4-(4-Amino-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)-N-tert-butylbenzamide
1-Propanephosphonic acid cyclic anhydride (1.967 g, 3 mmol, 1.840 mL, 50% solution in ethyl acetate) was added dropwise to a solution of (R)N-tert-butyl-3-((2-methylpiperazin-1-yl)methyl)benzamide (500 mg, 1.7 mmol), 4-amino-3-fluorobenzoic acid (239.7 mg, 1.5 mmol) and triethylamine (469 mg, 4.5 mmol, 1.84 mL) in dichloromethane. The reaction was stirred at room temperature for 2 hours. The dichloromethane was removed under reduced pressure and the residue was taken up in ethyl acetate, washed with water, sodium hydrogen carbonate and brine. The organic layer was concentrated under vacuum to afford the title compound (476.3 mg).

reactant | 1-Propanephosphonic acid cyclic anhydride | 3 mmol, 1.840 mL, 1.967 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | (R)N-tert-butyl-3-((2-methylpiperazin-1-yl)methyl)benzamide | 1.7 mmol, 500 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1[C@@H](CNCC1)C)=O | C17H27N3O
reactant | 4-amino-3-fluorobenzoic acid | 1.5 mmol, 239.7 mg | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 4.5 mmol, 1.84 mL, 469 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-3-((4-(4-Amino-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 476.3 mg | NC1=C(C=C(C(=O)N2C[C@H](N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C)C=C1)F | C24H31FN4O2
